US09303023B2
1-[2-(2-Methyl-benzoimidazol-1-yl)-ethyl]-1H-pyrazol-4-ylamine
To a round bottom flask was added 2-methyl-1-(2-(4-nitro-1H-pyrazol-1-yl)-ethyl)-1H-benzoimidazole (5.23 g, 19.28 mmol), Pd/C (523 mg) and MeOH (100 mL, degassed). The flask was evacuated and backfilled with H2 and the reaction mixture was stirred under H2-atmosphere at rt for 5 h. The reaction mixture was filtered over celite, washed with MeOH and the solvent was removed under reduced pressure. Purification was performed by dissolving the desired compound at 40° C. in DCM (60 mL) and filtering off the insoluble impurities. By adding heptane (150 mL) to the remaining solution, the title compound precipitated out as a pink solid. LC-MS conditions B: tR=0.17 min, [M+H]+=242.00.

reactant | 2-methyl-1-(2-(4-nitro-1H-pyrazol-1-yl)-ethyl)-1H-benzoimidazole | 19.28 mmol, 5.23 g | CC1=NC2=C(N1CCN1N=CC(=C1)[N+](=O)[O-])C=CC=C2 | C13H13N5O2
catalyst | Pd/C | 523 mg | [Pd] | Pd
solvent | MeOH | 100 mL | CO | CH4O
product | 1-[2-(2-Methyl-benzoimidazol-1-yl)-ethyl]-1H-pyrazol-4-ylamine | CC1=NC2=C(N1CCN1N=CC(=C1)N)C=CC=C2 | C13H15N5
